US06794395B1
(2) 1-acetyl-5,6-diethoxy-2-indolinone
Prepared from 5,6-diethoxy-2-indolinone and acetic anhydride

reactant | 5,6-diethoxy-2-indolinone | C(C)OC=1C=C2CC(NC2=CC1OCC)=O | C12H15NO3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 1-acetyl-5,6-diethoxy-2-indolinone | C(C)(=O)N1C(CC2=CC(=C(C=C12)OCC)OCC)=O | C14H17NO4
